US08471005B2
Into a 8-dram vial, 19.10 M of Sodium hydroxide in Water (7.88 mL, 1.50E2 mmol) and Water (7.88 mL, 438 mmol) water were added. The mixture was heated at 100° C. N-[2-(2-Methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-phenyl]-N-methyl-methanesulfonamide (2.00 g, 5.49 mmol) was added portion wise over 10 minutes. The reaction mixture was heated at 120° C. for 60 minutes. HPLC suggested no SM. The reaction was cooled to room temperature. Glacial acetic acid was added to adjust pH to 4. The mixture was stirred at room temperature for 30 minutes. The solid was filtered, washed with water and subsequently with Et2O. The resulting solid was dried under vacuum overnight to give N-[2-(2-Hydroxy-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-phenyl]-N-methyl-methanesulfonamide as a yellow solid (1.60 g, 92%).

reactant | Sodium hydroxide | 19.10 M | [OH-].[Na+]
reactant | Water | 1.50E2 mmol, 7.88 mL | O | H2O
reactant | Water | 438 mmol, 7.88 mL | O | H2O
reactant | N-[2-(2-Methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-phenyl]-N-methyl-methanesulfonamide | 5.49 mmol, 2.00 g | CS(=O)C1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)N(S(=O)(=O)C)C | C15H16N4O3S2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N-[2-(2-Hydroxy-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-phenyl]-N-methyl-methanesulfonamide | 1.60 g, 92% | OC1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)N(S(=O)(=O)C)C | C14H14N4O3S
